US05616620
a) (R)-N5 -[Amino(nitroimino)methyl]-N2 -(diphenylacetyl)-N-[[4-[(methylamino)carbonyl]phenyl]methyl]-ornithinamide
Prepared, analogously to Example 67a) but using acetonitrile as solvent instead of dimethylformamide, from (R)-N5 -[amino(nitroimino)methyl]-N2 -(diphenylacetyl)-ornithine, 4-[(methylamino)carbonyl]benzenemethylamine (prepared from 4-cyano-N-methylbenzamide by catalytic hydrogenation in the presence of palladium/animal charcoal) and TBTU in a yield of 22% of theory.

reactant | (R)-N5 -[amino(nitroimino)methyl]-N2 -(diphenylacetyl)-ornithine | NC(NCCC[C@@H](NC(C(C1=CC=CC=C1)C1=CC=CC=C1)=O)C(=O)O)=N[N+](=O)[O-] | C20H23N5O5
reactant | 4-[(methylamino)carbonyl]benzenemethylamine | CNC(=O)C1=CC=C(C=C1)CN | C9H12N2O
reactant | 4-cyano-N-methylbenzamide | C(#N)C1=CC=C(C(=O)NC)C=C1 | C9H8N2O
reactant | TBTU | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
solvent | acetonitrile | C(C)#N | C2H3N
catalyst | palladium | [Pd] | Pd
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | (R)-N5 -[Amino(nitroimino)methyl]-N2 -(diphenylacetyl)-N-[[4-[(methylamino)carbonyl]phenyl]methyl]-ornithinamide | yield of 22% | NC(NCCC[C@@H](NC(C(C1=CC=CC=C1)C1=CC=CC=C1)=O)C(=O)NCC1=CC=C(C=C1)C(=O)NC)=N[N+](=O)[O-] | C29H33N7O5
